US07851484B2
To a 100° C. solution of 5-bromo-N3-(pentan-3-yl)pyridine-2,3-diamine (2.0 g, 8.1 mmol, 1.0 equiv) in dioxane (10 mL) was added CDI portionwise until starting material was consumed as judged by TLC (50% EtOAC/Hexanes; UV). Approximately 10 equiv of carbonyldiimidazole were required. The resulting reaction mixture was cooled to room temperature, and the excess carbonyldiimidazole was quenched by the careful addition of water. The mixture was diluted with dichloromethane, and the layers were separated. The organic layer was washed with satd. aq. NaHCO3 twice, and brine once. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Purification by silica gel MPLC provided 6-bromo-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyridin-2-ol as a white solid (2.0 g, 74%). m/z=284.0 [M+H]+

reactant | 5-bromo-N3-(pentan-3-yl)pyridine-2,3-diamine | 8.1 mmol, 2.0 g, 1.0 equiv | BrC=1C=C(C(=NC1)N)NC(CC)CC | C10H16BrN3
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | carbonyldiimidazole | 10 equiv | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-bromo-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyridin-2-ol | 2.0 g, 74% | BrC=1C=C2C(=NC1)N=C(N2C(CC)CC)O | C11H14BrN3O
